US07977477B2
A mixture of 4-(4-methyl-benzoylamino)-1H-pyrazole-3-carboxylic acid methyl ester (486 mg) in 2 M aqueous NaOH/MeOH (1:1, 50 ml) was stirred at ambient temperature for 14 h. Volatile materials were removed in vacuo, water (100 ml) added and the mixture taken to pH 5 using 2M aqueous HCl. The resultant precipitate was collected by filtration and dried through azeotrope with toluene to afford 4-(4-methyl-benzoylamino)-1H-pyrazole-3-carboxylic acid as a gray solid (345 mg). (LC/MS: Rt 2.35, [M+H]+ 246.09).

reactant | 4-(4-methyl-benzoylamino)-1H-pyrazole-3-carboxylic acid methyl ester | 486 mg | COC(=O)C1=NNC=C1NC(C1=CC=C(C=C1)C)=O | C13H13N3O3
solvent | NaOH MeOH | 2 M, 50 ml | [OH-].[Na+].CO
product | 4-(4-methyl-benzoylamino)-1H-pyrazole-3-carboxylic acid | 345 mg | CC1=CC=C(C(=O)NC=2C(=NNC2)C(=O)O)C=C1 | C12H11N3O3
